US07576077B2
3-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a][1,3]diazepine
Trifluoroacetic acid anhydride (0.24 ml, 1.71 mmol) was added to a solution of 1,3-diazepan-2-one hydrazone hydroiodide in DCM (10 ml). The reaction mixture was stirred for 24 h at r.t. The volatiles were removed and the residue was refluxed in aq. sat. NaHCO3 for 2 h. After cooling to r.t. the product was collected by filtration, washed with water and dried to afford 101 mg (31%) of the title compound. 1H NMR: 1.85-1.96 (m, 4H), 3.17 (m, 2H), 3.99 (m, 2H), 5.04 (s, 1H).

reactant | Trifluoroacetic acid anhydride | 1.71 mmol, 0.24 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1,3-diazepan-2-one hydrazone hydroiodide | I.N1C(NCCCC1)=NN
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a][1,3]diazepine | 101 mg, 31% | FC(C1=NN=C2N1CCCCN2)(F)F | C7H9F3N4
